US07648937B2
Preparation of 5-norbornene-2-carboxylic methylester
Dicyclopentadiene (DCPD, available from Aldrich, 256.5 mL, 1.9 mol), methylacrylate (available from Aldrich, 405 mL, 4.5 mol) and hydroquinone (3.2 g, 0.03 mol) were charged into a 2 L high pressure reactor and heated to 220° C. The mixture was stirred at 300 rpm for 5 hours. After the reaction was completed, the resultant was cooled and transferred to a distiller. Vacuum distillation was carried out at 50° C. using a vacuum pump at 1 torr to obtain the product (yield: 57.6%, exo/endo=58/42).

reactant | Dicyclopentadiene | 1.9 mol, 256.5 mL | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | methylacrylate | 4.5 mol, 405 mL | COC(C=C)=O | C4H6O2
reactant | hydroquinone | 0.03 mol, 3.2 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 5-norbornene-2-carboxylic methylester | yield: 57.6% | COC(=O)C1C2C=CC(C1)C2 | C9H12O2
